US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (100 mg, 0.14 mmol) in chloroform (2 mL) was added N-chlorosuccinimide (28 mg, 0.21 mmol) followed by benzoyl peroxide (1-2 mg). The reaction mixture was refluxed at 75° C. for 12 h, and then N-chlorosuccinimide (19 mg, 0.14 mmol) was refilled and the reaction mixture was refluxed for another 5 h. After cooled to room temperature, the reaction mixture was diluted with chloroform (10 mL) and washed with saturated sodium bicarbonate (5 mL). The aqueous layer was further extracted with chloroform (2×10 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by preparative TLC (silica gel, 95:5 chloroform/methanol) and semi-preparative HPLC to afford (6R,6aS,14aR)-methyl 10-chloro-1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (13.3 mg, 14%) as a red solid: 1H NMR (500 MHz, CDCl3) δ 13.72 (s, 1H), 12.11 (s, 1H), 8.22 (s, 1H), 7.11 (br s, 1H), 6.54 (s, 1H), 5.73 (s, 1H), 5.20 (s, 1H), 4.95 (s, 1H), 4.60 (s, 1H), 3.85 (s, 3H), 3.82 (s, 3H), 3.73 (s, 2H), 3.60 (s, 3H), 3.59-3.52 (m, 1H), 3.41 (s, 3H), 3.38-3.31 (m, 1H), 3.34 (d, J=19.5 Hz, 1H), 3.11 (t, J=9.5 Hz, 1H), 2.48 (br s, 1H), 2.41 (s, 3H), 1.36 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 732 (M+H); HPLC 95.1% (AUC), tR 14.34 min; and (6R,6aS,14aR)-methyl 4,10-dichloro-1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (3.6 mg, 3%) as a dark blue solid: 1H NMR (500 MHz, CDCl3) δ 13.72 (s, 1H), 11.70 (br s, 1H), 8.20 (s, 1H), 7.11 (br s, 1H), 5.71 (s, 1H), 5.26 (s, 1H), 5.00 (s, 1H), 4.71 (s, 1H), 3.89 (s, 3H), 3.82 (s, 3H), 3.73 (s, 2H), 3.60 (s, 3H), 3.59-3.52 (m, 1H), 3.50-3.41 (m, 2H), 3.41 (s, 3H), 3.11 (t, J=9.0 Hz, 1H), 2.54 (s, 3H), 2.46 (s, 1H), 1.34 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 766 (M+H); HPLC 92.8% (AUC), tR 15.63 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.14 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | N-chlorosuccinimide | 0.21 mmol, 28 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | 1-2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-chlorosuccinimide | 0.14 mmol, 19 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (6R,6aS,14aR)-methyl 10-chloro-1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 13.3 mg, 14% | ClC=1C(C=2C(=C3C([C@@]4([C@@H](CC5=C([C@@]4(C(C3=CC2C(C1N[C@H]1O[C@H]([C@@H]([C@H]([C@H]1OC)O)OC)C)=O)=O)O)C(=C(C(=C5)C)C(=O)OC)O)O)OC)=O)O)=O | C34H34ClNO15
